* C:\Users\mptsi\Documents\LTspice\Analog VLSI Design\Cascode (CS-CG) amplifier.asc
M1 N003 N004 N005 N005 NMOS1
M2 N001 N002 N003 N003 NMOS2
R1 Vdd N002 100k
R2 N002 N004 24k
R3 N004 0 12k
RD Vdd N001 3.3k
RS N005 0 1k
C1 Vout1 N003 10µ
CD2 Vout2 N001 10µ
CC1 N004 Vin 10µ
CB N002 0 100µ
Vs Vin 0 SINE(0 10m 1k)
V1 Vdd 0 18
CS1 N005 0 100µ
R4 Vout2 0 90k
R5 Vout1 0 90k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mptsi\AppData\Local\LTspice\lib\cmp\standard.mos
.model nmos1 nmos(VTO=0.8 KP=1.6E-3)
* D2
* S2
* S1
* Cascode (CS-CG) amplifier
* E-MOSFET Parameters: VTO=0.8V, kn = 0.8e-3\nKP = 2*kn = 1.6e-3
.tran 3m
.model nmos2 nmos(VTO=0.8 KP=1.6E-3)
* AC 1
.meas Vin PP V(Vin)
.meas Vout PP V(Vout2)
.meas Gain Param Vout/Vin
.meas GaindB Param 20*log10(Gain)
* AV1=-Vout1/Vin=0.9978
* AV2=Vout2/Vout1=2.89
;op
.backanno
.end
